US04448728
A mixture of 2 g of ethyl 2,2-dimethyl-3-ethoxycarbonyl-1-cyano-cyclopropane-1-carboxylate and 4.71 g of 10% ethanolic potassium hydroxide was stirred under an inert atmosphere for 15 hours and the ethanol was evaporated under reduced pressure. The resulting potassium salt was washed with ether and added to 5.2 g of dimethylformamide and 0.128 g of water. The mixture was heated at 130° C. under an inert atmosphere for 5 hours and the mixture was cooled and poured into a stirred mixture of 25 g of ice and 200 ml of ether. The decanted aqueous phase was extracted with ether. The combined ether phases were washed with aqueous sodium chloride solution, dried and evaporated to dryness to obtain 1.23 g of 2,2-dimethyl-3-ethoxycarbonyl-cyclopropane-1-carbonitrile in the form of a mixture of 90% of the cis isomer and 10% of the trans isomer which could be separated as in Example 2.

reactant | ethyl 2,2-dimethyl-3-ethoxycarbonyl-1-cyano-cyclopropane-1-carboxylate | 2 g | CC1(C(C1C(=O)OCC)(C(=O)OCC)C#N)C | C12H17NO4
reactant | potassium hydroxide | 4.71 g | [OH-].[K+]
product | 2,2-dimethyl-3-ethoxycarbonyl-cyclopropane-1-carbonitrile | 1.23 g | CC1(C(C1C(=O)OCC)C#N)C | C9H13NO2
